US07153854B2
To a solution of ethyl 4-[7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]-3-hydroxybutanoate (52 mg) in tetrahydrofuran (1 ml) was added 1N sodium hydroxide (0.27 ml), followed by methanol (1 ml). After standing at 20° C. overnight, the mixture was partitioned between 1N hydrochloric acid and ethyl acetate. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated to give 4-[7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]-3-hydroxybutanoic acid (45 mg) as an yellow oil.

reactant | ethyl 4-[7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]-3-hydroxybutanoate | 52 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)CC(CC(=O)OCC)O)C | C20H20ClFN2O3
reactant | sodium hydroxide | 1N, 0.27 ml | [OH-].[Na+]
reactant | methanol | 1 ml | CO | CH4O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-[7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]-3-hydroxybutanoic acid | 45 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)CC(CC(=O)O)O)C | C18H16ClFN2O3
